US07186730B2
A mixture of 5-bromomethyl-benzo[1,2,5]thiadiazole [RN65858-50-6](7.0 g, 30 mmol), ethanol (50 ml)and a solution of potassium cyanide (2.3 g, 36 mmol) in water (25 ml) was stirred at 50° C. for 15 hours. The alcoholic solution was concentrated and the residue suspended in water. The solid was collected by filtration, washed with water and dried in vacuo to give benzo[1,2,5]thiadiazol-5-yl-acetonitrile (2.8 g, 47%)

reactant | 5-bromomethyl-benzo[1,2,5]thiadiazole | 30 mmol, 7.0 g | BrCC=1C=CC=2C(=NSN2)C1 | C7H5BrN2S
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | potassium cyanide | 36 mmol, 2.3 g | [C-]#N.[K+]
solvent | water | 25 ml | O | H2O
product | benzo[1,2,5]thiadiazol-5-yl-acetonitrile | 2.8 g, 47% | N1=C2C(=NS1)C=C(C=C2)CC#N | C8H5N3S
